US07625886B2
1.2b) (R)-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-2-[4-(1-oxo-1λ4-thiomorpho-lin-4-yl)-piperidin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 80 mg (0.14 mmol) (R)-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-2-(4-oxo-piperidin-1-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 32 mg (0.27 mmol) thiomorpholin-1-oxide in 5 mL DCM was stirred overnight at RT. After the solution had been cooled to 0° C., 15 μL (0.27 mmol) of AcOH and 50 mg (0.33 mmol) of sodium triacetoxyborohydride were added and the reaction mixture was stirred for 4 h at this temperature. It was evaporated down i.vac., the residue was taken up in 1 mL MeOH, filtered to remove any insoluble constituents and the crude product was purified by HPLC. The fractions containing the product were combined and lyophilised.

reactant | (R)-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-2-(4-oxo-piperidin-1-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.14 mmol, 80 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCC(CC1)=O)=O)CC1=CC3=C(NC(O3)=O)C(=C1)C)C=CC=C2 | C31H35N5O7
reactant | thiomorpholin-1-oxide | 0.27 mmol, 32 mg | N1CCS(CC1)=O | C4H9NOS
reactant | AcOH | 0.27 mmol, 15 μL | CC(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.33 mmol, 50 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-ylmethyl)-2-oxo-2-[4-(1-oxo-1λ4-thiomorpho-lin-4-yl)-piperidin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCC(CC1)N1CCS(CC1)=O)=O)CC1=CC3=C(NC(O3)=O)C(=C1)C)C=CC=C2 | C35H44N6O7S
